US03983133
A mixture of 7.2 parts of 1,4,5,6-tetrahydro-2-nitraminopyrimidine, 7.55 parts of α-(aminomethyl)benzyl alcohol and 12 parts of xylene is stirred and refluxed for 4 hours on a water-tap. The xylene is evaporated and the residue is dissolved in 20 parts of acetone. The product is crystallized at room temperature. It is filtered off and dried, yielding α-(1,4,5,6-tetrahydro-2-pyrimidinylaminomethyl)benzyl alcohol.

reactant | 1,4,5,6-tetrahydro-2-nitraminopyrimidine | N([N+](=O)[O-])C=1NCCCN1 | C4H8N4O2
reactant | α-(aminomethyl)benzyl alcohol | NCC(C1=CC=CC=C1)O | C8H11NO
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | α-(1,4,5,6-tetrahydro-2-pyrimidinylaminomethyl)benzyl alcohol | N1C(=NCCC1)NCC(C1=CC=CC=C1)O | C12H17N3O
